US08541418B2
A suspension of 3-bromoquinoline (1-Im-10, 1.5 g) and CuCN (3 eq) in 10 mL of pyridine in a 25 mL microwave tube was heated at 250° C. for 30 min in a microwave. This was repeated 10 times and the reactions were combined and diluted with 200 mL of EtOAc. The solids were removed by filtration and the EtOAc solution concentrated. The residue was taken up in a solution prepared from 80 mL of 30% aqueous NH3 and 800 mL of water. This was extracted with EtOAc (4×800 mL) then the combined extracts were dried with anhydrous Na2SO4, concentrated and purified by silica gel chromatography (PE:EtOAc=3:1) to give quinoline-3-carbonitrile (2-Im-10).

reactant | 3-bromoquinoline | 1.5 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | CuCN | 3 eq | C(#N)[Cu]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | quinoline-3-carbonitrile | N1=CC(=CC2=CC=CC=C12)C#N | C10H6N2
